US07524823B2
A] Preparation of 6-(3-hydroxypropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione
To a suspension of 4.0 g (27 mmol) furo[3,4-b]pyridine-5,7-dione in 10 ml chloroform a solution of 2.03 g (27 mmol) of 3-aminopropanol in 7 ml chloroform was added and the mixture was heated to reflux for 30 minutes. Now the solvent was slowly evaporated and the mixture was gradually heated to 150-160° C. while the vacuum was maintained. After two hours the mixture was cooled to room temperature and the brownish crude product was purified by flash chromatography (silica gel, ethyl acetate/MeOH 15:1) to afford 3.9 g (70%) of the desired product as a white powder. 1H-NMR (CDCl3): 1.89-1.95 (m, 2H), 2.25 (s, br, 1H), 3.64-3.68 (m, 2H), 3.90-3.96 (m, 2H), 7.60-7.66 (m, 1H), 8.14-8.20 (m, 1H), 8.93-8.99 (m, 1H).

reactant | furo[3,4-b]pyridine-5,7-dione | 27 mmol, 4.0 g | N1=C2C(=CC=C1)C(OC2=O)=O | C7H3NO3
reactant | 3-aminopropanol | 27 mmol, 2.03 g | NCCCO | C3H9NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3-hydroxypropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione | 3.9 g, 70% | OCCCN1C(C2=NC=CC=C2C1=O)=O | C10H10N2O3
